US04146715
9-(benzoyloxyethoxymethyl)guanine (0.58g) and methanol (80ml) saturated with ammonia were heated in a bomb at 80° C. for 16 hours. The reaction mixture was removed from the bomb and the solvent evaporated under reduced pressure. The residue was thoroughly washed with ether and then recrystallized from methanol to give 9-(2-hydroxyethoxymethyl)guanine (0.31g., 75% of theoretical), m.p. 256.5°-257° C.

reactant | 9-(benzoyloxyethoxymethyl)guanine | 0.58g | C(C1=CC=CC=C1)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C15H15N5O4
reactant | ammonia | N | H3N
solvent | methanol | 80ml | CO | CH4O
product | 9-(2-hydroxyethoxymethyl)guanine | 0.31g, 75% | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
